US05817654
A solution of 3,3-dichloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]azepine (6.2 g, 22 mmol) in glacial acetic acid (200 ml) was placed under an atmosphere of nitrogen. Sodium acetate trihydrate (3.8 g, 28 mmol) was added. After 5 minutes palladium on carbon (10%, 0.6 g) was added and the reaction mixture was hydrogenated at atmospheric pressure and room temperature using 450 ml of hydrogen gas. The reaction mixture was filtered through Celite and the solvent was evaporated in vacuo. After reevaporation with toluene (250 ml), the residue was suspended in water (100 ml), stirred for 5 minutes and the solid was isolated by filtration and dried in vacuo to afford 1.7 g of 3-chloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]azepine.

reactant | 3,3-dichloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]azepine | 22 mmol, 6.2 g | ClC1(CCC2=C(NC1=O)C=CC1=CC=CC=C12)Cl | C14H11Cl2NO
reactant | Sodium acetate trihydrate | 28 mmol, 3.8 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydrogen | 450 ml | [H][H] | H2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | 3-chloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]azepine | 1.7 g | ClC1CCC2=C(NC1=O)C=CC1=CC=CC=C12 | C14H12ClNO
